US07612075B2
C. (±)-2-{4-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-3-methoxycarbonyl-5-oxo-piperazin-1-ylmethyl}-5-chloro-indole-1-carboxylic acid tert-butyl ester.
To a mixture of (±)-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-6-oxo-piperazine-2-carboxylic acid methyl ester (630 mg, 1.39 mmol) and K2CO3 (380 mg, 2.78 mmol) in anhydrous CH3CN (5 mL) at 0° C. is added 2-bromomethyl-5-chloro-indole-1-carboxylic acid tert-butyl ester (720 mg, 2.09 mmol), EXAMPLE 21, in CH3CN (4 mL). The reaction mixture is allowed to warm to ambient temperature then maintained for 16 hours. The reaction mixture is diluted with diethyl ether/water and the layers are separated. The organic phase is washed twice with water, brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude residue is chromatographed on silica (CH2Cl2 to 2% MeOH/CH2Cl2) to provide 550 mg (55%) of the title compound which is used directly in the next reaction without further characterization.

reactant | (±)-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-6-oxo-piperazine-2-carboxylic acid methyl ester | 1.39 mmol, 630 mg | COC(=O)C1N(C(CNC1)=O)CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N4O3
reactant | K2CO3 | 2.78 mmol, 380 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromomethyl-5-chloro-indole-1-carboxylic acid tert-butyl ester | 2.09 mmol, 720 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)Cl)CBr | C14H15BrClNO2
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | CH3CN | 4 mL | CC#N | C2H3N
solvent | diethyl ether water | C(C)OCC.O
product | (±)-2-{4-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-3-methoxycarbonyl-5-oxo-piperazin-1-ylmethyl}-5-chloro-indole-1-carboxylic acid tert-butyl ester | 550 mg, 55% | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)Cl)CN1CC(N(C(C1)=O)CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C41H38ClN5O5
